US04292449
A suspension of 58.1 g (1.0 mol) of flame-dried KF in 1400 ml of dry diglyme was stirred at 25° while 333 g (0.67 mol) of hexafluoropropene oxide trimer was added rapidly. The two-phase system was stirred at 25° for 2 hr, during which time about half of the fluorocarbon layer slowly dissolved. The mixture was stirred at 5°-10° while 230 g (1.0 mol) of 1 was added. The mixture was stirred at 5°-10° for 2.5 hr, then overnight at 25°, and poured into 2 l. of H2O. The aqueous layer was extracted with 100 ml of CFCl2Cl, and the combined organic layers washed with 2 l. of H2O, extracted with 100 ml of conc. H2SO4, clarified with CaSO4, filtered and distilled. Hydrolysis and bubbling were apparent in the water washed. Distillation afforded major fractions of 2 and 3, bp 55°-71° (20 mm) and 140 g of crude CF3CF2CF2OCF(CF3)CF2OCF(CF3)CO2H, bp mainly 101°-104° (20 mm). Redistillation of combined fractions of 2 and 3 gave 80 g of impure 3, bp 81°-86° (80 mm) and 33.0 g (8%) of 2, bp 94°-95° (80 mm).

reactant | KF | 1.0 mol, 58.1 g | [F-].[K+]
reactant | hexafluoropropene oxide trimer | 0.67 mol, 333 g | C(=O)(C(C(F)(F)F)(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F)F | C9F18O3
reactant | fluorocarbon | F[C] | CF
reactant | H2O | O | H2O
solvent | diglyme | 1400 ml | COCCOCCOC | C6H14O3
product | CF3CF2CF2OCF(CF3)CF2OCF(CF3)CO2H | 140 g | C(F)(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(=O)O | C9HF17O4
